US04279637
PREPARATION OF N-[3,5-DICHLORO-4-(3,5-DICHLOROPHENOXY)PHENYL]-N'-(2,2-DIMETHOXYETHYL)-N'-METHYLUREA
Ethyl [3,5-dichloro-4-(3,5-dichlorophenoxy)phenyl]carbamate (0.1 mole) and toluene (100 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer and condenser. N-(2,2-dimethoxyethyl)methanamine (0.15 mole) is added to the vessel and the mixture is refluxed for 16 hours. Solvent is then removed by mild warming under reduced pressure to yield the desired product N-[3,5-dichloro-4-(3,5-dichlorophenoxy)phenyl]-N'-(2,2-dimethoxyethyl)-N'-methylurea.

reactant | Ethyl [3,5-dichloro-4-(3,5-dichlorophenoxy)phenyl]carbamate | 0.1 mole | ClC=1C=C(C=C(C1OC1=CC(=CC(=C1)Cl)Cl)Cl)NC(OCC)=O | C15H11Cl4NO3
reactant | N-(2,2-dimethoxyethyl)methanamine | 0.15 mole | COC(CNC)OC | C5H13NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-[3,5-dichloro-4-(3,5-dichlorophenoxy)phenyl]-N'-(2,2-dimethoxyethyl)-N'-methylurea | ClC=1C=C(C=C(C1OC1=CC(=CC(=C1)Cl)Cl)Cl)NC(=O)N(C)CC(OC)OC | C18H18Cl4N2O4
